US06906060B2
(R)-Octahydropyrido[1,2-a]pyrazine-2-carboxylic acid 2-(3-(trifluoromethyl)phenyl)ethyl ester
48 mg of the title compound was prepared as described for (S)-octahydropyrido[1,2-a]pyrazine-2-carboxylic acid 2-(4-methoxyphenyl)ethyl ester, using 2-(3-(trifluoromethyl)-phenyl)ethanol instead of 2-(4-methoxyphenyl)ethanol.

reactant | (S)-octahydropyrido[1,2-a]pyrazine-2-carboxylic acid 2-(4-methoxyphenyl)ethyl ester | COC1=CC=C(C=C1)CCOC(=O)N1C[C@H]2N(CC1)CCCC2 | C18H26N2O3
reactant | 2-(3-(trifluoromethyl)-phenyl)ethanol | FC(C=1C=C(C=CC1)CCO)(F)F | C9H9F3O
product | (R)-Octahydropyrido[1,2-a]pyrazine-2-carboxylic acid 2-(3-(trifluoromethyl)phenyl)ethyl ester | 48 mg | FC(C=1C=C(C=CC1)CCOC(=O)N1C[C@@H]2N(CC1)CCCC2)(F)F | C18H23F3N2O2
